US07417169B2
4′-(2-Hydroxyethoxy)-2-methylbiphenyl-4-carboxylic acid
Lithium hydroxide monohydrate (0.19 g) was added to a mixture of ethyl 4′-(2-hydroxyethoxy)-2-methylbiphenyl-4-carboxylate (0.136 g), ethanol (2 mL), 1,4-dioxane (2 mL) and water (1 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 2 mol/L hydrochloric acid (2.3 mL). The solvent was evaporated under reduced pressure, and water and ethyl acetate were added to the residue. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethylacetate/n-hexane=2/1-4/1) to afford the title compound (0.066 g).

reactant | Lithium hydroxide monohydrate | 0.19 g | O.[OH-].[Li+]
reactant | ethyl 4′-(2-hydroxyethoxy)-2-methylbiphenyl-4-carboxylate | 0.136 g | OCCOC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OCC)C | C18H20O4
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 2 mol/L, 2.3 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4′-(2-Hydroxyethoxy)-2-methylbiphenyl-4-carboxylic acid | 0.066 g | OCCOC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)O)C | C16H16O4
